US04401661
N,N'-Bis[4-[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyloxy]phenyl]butanediamide
A 3.0 g portion of N,N'-bis[4-[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyloxy]phenyl]butanediamide was dissolved in a 0° C. solution of 50 ml of methanol saturated with ammonia. The solution was allowed to stand at room temperature, under an inert atmosphere, for 18 hours, then was evaporated. The residue was crystallized from methanol/water to yield 1.35 g of the title compound as a dihydrate, m.p. 190°-200° C.

reactant | N,N'-bis[4-[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyloxy]phenyl]butanediamide | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)OC1=CC=C(C=C1)NC(CCC(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)=O | C68H84N2O38
solvent | methanol | 50 ml | CO | CH4O
solvent | ammonia | N | H3N
product | N,N'-Bis[4-[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyloxy]phenyl]butanediamide | 1.35 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@@H](O[C@@H]1CO)OC1=CC=C(C=C1)NC(CCC(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)=O)O)O | C40H56N2O24
